US07659305B2
4-(2-Fluoro-phenoxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
(2S,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (CAS Reg. No. 74844-91-0) (300 mg, 1.22 mmol) was dissolved in THF (10 ml), and triphenylphosphine (385 mg, 1.47 mmol) and 2-fluorophenol (164.5 mg, 1.47 mmol) were added. The reaction was cooled in ice, DIAD (0.23 ml, 1.2 mmol) added dropwise and the reaction stirred at room temperature overnight. The mixture was concentrated in vacuo, CH2Cl2 (20 ml) added and the solution washed with 2N NaOH (10 ml). The phases were separated and the organic phase washed with saturated brine (10 ml), dried over MgSO4 and evaporated. The residue was dissolved in a minimum of diethylether and pentane added until solution just maintained. After seeding with triphenylphosphine oxide, the solution was cooled in ice and the resultant precipitate filtered. The filtrate was evaporated and the residue purified by flash chromatography on silica (50 g) eluting initially with pentane:diethylether (2:1 by volume), then pentane:diethylether (1:1 by volume) to give the title product (388 mg, 58%) as an impure oil containing diisopropylbicarbamate as an impurity.

reactant | (2S,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | triphenylphosphine | 1.47 mmol, 385 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-fluorophenol | 1.47 mmol, 164.5 mg | FC1=C(C=CC=C1)O | C6H5FO
reactant | DIAD | 1.2 mmol, 0.23 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2-Fluoro-phenoxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 388 mg, 58% | COC(=O)C1N(CC(C1)OC1=C(C=CC=C1)F)C(=O)OC(C)(C)C | C17H22FNO5
